US06498251B1
Synthesis Example 16c 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine
4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid hydrochloride (260 mg, 1.2 mmol) was mixed with 47% hydrogen bromide aqueous solution (3 ml) and heated under reflux for 4 hours. The reaction solution was returned to room temperature and alkalified by adding sodium hydroxide aqueous solution (5 N), and the reaction product was extracted with diethyl ether, washed with saturated brine and then dried with anhydrous magnesium sulfate. By evaporating the solvent from the organic layer under a reduced pressure, 160 mg (1.1 mmol, 95% in yield) of the title compound was obtained.

reactant | 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid hydrochloride | 1.2 mmol, 260 mg | Cl.S1C(=CC=2CNCCC21)C(=O)O
reactant | hydrogen bromide | 3 ml | Br | BrH
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
product | 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine | S1C=CC=2CNCCC21 | C7H9NS
